US08309721B2
Synthesis of 2-(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)amino-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide
The process is carried out as in stage 3 of Example 3, but using 300 mg of 2-fluoro-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzonitrile, obtained according to stage 1 of Example 32, 301 mg of potassium carbonate and 3 g of 8-methyl-8-azabicyclo[3.2.1]octan-3-amine in 1.7 ml of dimethyl sulphoxide, in a microwave for 1 hour and 15 minutes at 115° C. 1.38 ml (1.38 mmol) of a 1M aqueous solution of sodium hydroxide, 1.33 ml (13 mmol) of a 30% aqueous solution of hydrogen peroxide and 8 ml of ethanol are then added to the reaction medium. After treatment as in stage 3 of Example 3, and then purification by flash chromatography on 10 g of silica gel, elution being carried out with a mixture of dichloromethane and ammonia in a 7M solution in methanol (97/3 by volume), 150 mg of 2-(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)amino-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide are thus obtained in the form of an off-white solid, the characteristics of which are the following:

reactant | 2-fluoro-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzonitrile | 300 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC2=CC=CC=C2C1 | C28H16FN3
reactant | potassium carbonate | 301 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 8-methyl-8-azabicyclo[3.2.1]octan-3-amine | 3 g | CN1C2CC(CC1CC2)N | C8H16N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 1.7 ml | CS(=O)C | C2H6OS
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 2-(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)amino-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide | CN1C2CC(CC1CC2)NC2=C(C(=O)N)C=CC(=C2)N2C1=CC=CC=C1C=1C(=CC=CC21)C=2C=NC1=CC=CC=C1C2 | C36H33N5O
